US07888040B2
Evaluation of Horseradish Peroxidase-Pseudoephedrine Conjugate by Enzyme Immunoassay
96-well microtitre plates were coated overnight at room temperature with monoclonal anti-methamphetamine antibody (East Coast Biologicals, USA) at 5 :g/ml, 100 :l/well, in 50 mM sodium carbonate/bicarbonate buffer, pH 9.6. The plate was washed 3 times with wash buffer and blocked in the same buffer for 30 minutes. 3-fold dilutions in assay buffer of the enzyme-drug conjugate (100 :l/well) were added. After 30 minutes incubation at room temperature, the plate was washed 3 times and the substrate solution added as described before. FIG. 4 shows the titration profile obtained with this conjugate. The conjugate retained both enzyme activity and the ability to bind to immobilised anti-methamphetamine antibody allowing its use in drug capture competitive enzyme immunoassay.

reactant | methamphetamine | C[C@@H](CC=1C=CC=CC1)NC | C10H15N
reactant | sodium carbonate bicarbonate | 50 mM | C([O-])([O-])=O.[Na+].[Na+].C([O-])(O)=O
product | Pseudoephedrine | C[C@@H]([C@H](C=1C=CC=CC1)O)NC | C10H15NO
